US04386031
(b) 8-[2-Chloro-N-(3-chlorophenyl)-benzamido]-caprylic acid methyl ester
As described in example 3(b), the reaction is carried out with 10 g (35 mmol) of 8-(3-chlorophenylamino)-caprylic acid methyl ester, 6.2 g (35 mmol) of 2-chlorobenzoic acid chloride, 3.9 g (39 mmol) of triethylamine and 100 cc. of ether. Reaction time: 24 hours, reaction temperature: 25° C. The crude product is further purified chromatographically on silicic acid gel using chloroform as eluant.

reactant | 8-(3-chlorophenylamino)-caprylic acid methyl ester | 35 mmol, 10 g | COC(CCCCCCCNC1=CC(=CC=C1)Cl)=O | C15H22ClNO2
reactant | 2-chlorobenzoic acid chloride | 35 mmol, 6.2 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | triethylamine | 39 mmol, 3.9 g | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 8-[2-Chloro-N-(3-chlorophenyl)-benzamido]-caprylic acid methyl ester | COC(CCCCCCCN(C(C1=C(C=CC=C1)Cl)=O)C1=CC(=CC=C1)Cl)=O | C22H25Cl2NO3
